US07544697B2
A modification of the method described in Example 610 was used to couple tert-butyl 2-(4-amino-2-propyl-2H-pyrazolo[3,4-c]quinolin-1-yl)ethylcarbamate (2.08 g, 5.82 mmol) (Example 51, Parts A through G) with 3-[(tert-butoxycarbonyl)amino]pyridin-4-ylboronic acid (2.77 g, 11.6 mmol). After the first purification by IFC, 0.44 g of tert-butyl 2-(4-amino-2-propyl-2H-pyrazolo[3,4-c][1,7]naphthyridin-1-yl)ethylcarbamate was obtained as a yellow solid.

reactant | tert-butyl 2-(4-amino-2-propyl-2H-pyrazolo[3,4-c]quinolin-1-yl)ethylcarbamate | 5.82 mmol, 2.08 g | NC1=NC=2C=CC=CC2C=2C1=NN(C2CCNC(OC(C)(C)C)=O)CCC | C20H27N5O2
reactant | 3-[(tert-butoxycarbonyl)amino]pyridin-4-ylboronic acid | 11.6 mmol, 2.77 g | C(C)(C)(C)OC(=O)NC=1C=NC=CC1B(O)O | C10H15BN2O4
product | tert-butyl 2-(4-amino-2-propyl-2H-pyrazolo[3,4-c][1,7]naphthyridin-1-yl)ethylcarbamate | 0.44 g | NC1=NC=2C=NC=CC2C=2C1=NN(C2CCNC(OC(C)(C)C)=O)CCC | C19H26N6O2
